US04003936
2-Acetyl-1,3-cyclopentanedione (3.13 g.) was treated with 3,4-dichlorobenzaldehyde (4.36 g.) in 140 ml. of ethanol under reflux for 4 hours in the presence of 5 ml. of morpholine. After cooling, the reaction mixture was poured into 150 ml. of water containing 7 ml. of conc. hydrochloric acid. Deposited crystals were separated by filtration and washed with water, and dried. 2-(3,4-Dichlorocinnamoyl)-1,3-cyclopentanedione (2.48 g., 37%) was obtained which showed mp. 190°- 191° C. after recrystallization from dioxane.

reactant | 2-Acetyl-1,3-cyclopentanedione | 3.13 g | C(C)(=O)C1C(CCC1=O)=O | C7H8O3
reactant | 3,4-dichlorobenzaldehyde | 4.36 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 7 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-(3,4-Dichlorocinnamoyl)-1,3-cyclopentanedione | 2.48 g, 37% | ClC=1C=C(C=CC(=O)C2C(CCC2=O)=O)C=CC1Cl | C14H10Cl2O3
